US09233981B1
An aqueous solution of sodium hypochlorite (6.15% solution, 6.6 L) was slowly added to a solution of 2-{[(2R)-1-(benzyloxy)hex-4-en-2-yl]oxy}-N-hydroxyethanimine (C15) (660 g, 2.51 mol) and triethylamine (19 g, 0.19 mol) in dichloromethane (6.6 L) at 25° C. After completion of the addition, the reaction mixture was stirred at 25° C. for 30 minutes. The organic layer was washed with water (3×3 L), dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via chromatography on silica gel (Eluent: ethyl acetate in petroleum ether) provided (3S,3aR,5R)-5-[(benzyloxy)methyl]-3-methyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C16) as a white solid. Yield: 90 g, 0.34 mol, 14%. The indicated relative stereochemistry of compound C16 was assigned based on nuclear Overhauser enhancement studies, which revealed interactions of the methine proton on carbon 3a with both the protons of the methyl group on carbon 3 and the methine proton on carbon 5. LCMS m/z 261.9 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 7.24-7.39 (m, 5H), 4.69 (d, J=13.7 Hz, 1H), 4.57 (AB quartet, JAB=12.2 Hz, ΔνAB=13.8 Hz, 2H), 4.13-4.25 (m, 2H), 3.62-3.70 (m, 1H), 3.55 (dd, half of ABX pattern, J=10, 6 Hz, 1H), 3.47 (dd, half of ABX pattern, J=10, 4 Hz, 1H), 2.93 (br ddd, J=11, 11, 7 Hz, 1H), 2.11 (br dd, J=12.6, 6.8 Hz, 1H), 1.45-1.56 (m, 1H), 1.45 (d, J=6.2 Hz, 3H).

reactant | sodium hypochlorite | 6.6 L | Cl[O-].[Na+]
reactant | 2-{[(2R)-1-(benzyloxy)hex-4-en-2-yl]oxy}-N-hydroxyethanimine | 2.51 mol, 660 g | C(C1=CC=CC=C1)OC[C@@H](CC=CC)OCC=NO | C15H21NO3
reactant | triethylamine | 0.19 mol, 19 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6.6 L | ClCCl | CH2Cl2
product | (3S,3aR,5R)-5-[(benzyloxy)methyl]-3-methyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C(C1=CC=CC=C1)OC[C@H]1C[C@@H]2C(=NO[C@H]2C)CO1 | C15H19NO3
